US08084448B2
B. N-((1R*,2S*)-2-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-benzyl}-cyclohexyl)-acetamide
To a solution of 5-[4-((1S*,2R*)-2-aminocyclohexylmethyl)-2-benzyloxyphenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one in methylene chloride (5 mL) is added diisopropylethylamine (93 mg, 0.72 mmol) followed by acetyl chloride (36 mg, 0.458 mmol) and the mixture is stirred at RT for 24 h. Ethyl acetate is added and the mixture is washed with 1N HCl and brine. The organic phase is dried over magnesium sulfate and the solvent removed under reduced pressure. The residue is purified by flash chromatography using a gradient of 25-75% EtOAc/hexane as eluent to give the title compound.

reactant | 5-[4-((1S*,2R*)-2-aminocyclohexylmethyl)-2-benzyloxyphenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | N[C@H]1[C@@H](CCCC1)CC1=CC(=C(C=C1)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O)OCC1=CC=CC=C1 | C27H39N3O4SSi
reactant | diisopropylethylamine | 0.72 mmol, 93 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetyl chloride | 0.458 mmol, 36 mg | C(C)(=O)Cl | C2H3ClO
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | N-((1R*,2S*)-2-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-benzyl}-cyclohexyl)-acetamide | C(C1=CC=CC=C1)OC=1C=C(C[C@H]2[C@@H](CCCC2)NC(C)=O)C=CC1N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O | C29H41N3O5SSi
